US06660756B2
2-(4-Bromophenyl)-pyridine
nBuLi (1.6M in hexanes, 34.4 mls, 55 mmol) was added dropwise to a stirred solution of 1,4-dibromobenzene (11.8 g, 50 mmol) in 100 ml of dry THF at −60° C. The mixture was stirred for 15 min at this temperature before a solution of ZnCl2 (0.5M in THF, 100 ml, 50 mmol) in THF was added dropwise. The mixture was allowed to warm to room temperature over 90 min, and then Pd(PPh3)4 (200 mg) was added, followed immediately by 2-bromopyridine (4.8 ml, 50 mmol). The whole was stirred at room temperature overnight, then evaporated to low (10 ml) volume and diluted with EtOAc (400 ml). The solution was washed with a solution of 32 g of EDTA in 200 ml water and brine (200 ml), dried (MgSO4) and evaporated to a yellow/green solid. This solid was purified by column chromatography using 1:1 hexane:DCM as eluant to provide the title product (8.3 g, 71%); m/z MH+234 (TS+); Found C 56.61%, H 3.37%, N 5.90%; Calcd. C 56.44%, H 3.44%, N 5.98%.

reactant | nBuLi | 55 mmol, 1.6M, 34.4 mls | [Li]CCCC
reactant | 1,4-dibromobenzene | 50 mmol, 11.8 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | 2-bromopyridine | 50 mmol, 4.8 ml | BrC1=NC=CC=C1 | C5H4BrN
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 50 mmol, 0.5M, 100 ml | [Cl-].[Cl-].[Zn+2]
catalyst | Pd(PPh3)4 | 200 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-Bromophenyl)-pyridine | 8.3 g, 71% | BrC1=CC=C(C=C1)C1=NC=CC=C1 | C11H8BrN
